Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
fentanyl
 
Attending: ___
 
Chief Complaint:
Difficulty walking
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Time (and date) the patient was last known well: ___ 
(24h
clock) 
___ Stroke Scale Score: 0
t-PA given: No Reason t-PA was not given or considered: NIHSS0,
symptoms for 3 days 

Thrombectomy performed: [] Yes [x] No: no LVO 

The NIHSS was performed: 
Date: ___
___: ___
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

Patient is a ___ left handed man with a history of 
hypertension, hyperlipidemia, idiopathic peripheral neuropathy, 
vasovagal syncope status post pacemaker placement with a history 
of recurrent pneumonias requiring lobectomy as a child who 
presents with 3 days of progressively worsening unsteadiness and 
difficulty walking.

Symptoms started on ___ night when patient describes a 
sensation of feeling a bit more unsteady than usual. He says 
this sensation was different from his typical issues feeling his 
feet from his peripheral neuropathy. This sensation got worse on 
___ and he still felt unsteady most of the day. His 
symptoms significantly got worse on ___ which prompted him to 
go to the emergency department. He said on ___ he was really 
unable to walk without holding onto anything. He also endorses 
feeling very unsteady while he was in the shower and he close 
his eyes to wash his hair he had to grab onto the wall of the 
shower to prevent himself from falling over. He denies any 
difficulties with coordination as far as reaching for things. 
Denies any dizziness or room spinning vertigo the does endorse a 
little lightheadedness. He denies any double vision, cuts in his 
vision, any blurry vision. He does endorse a "strange dark spot" 
in his vision at night that has now gone away. He denies any 
falls. He denies any worsening of his sensory symptoms from his 
neuropathy.

He had a recent upper respiratory infection at the end ___ 
when he went to ___ but she states that for the 
summer. He also endorses some swelling in his ankles that is new 
for him over the last 2 to 3 weeks.

On neuro ROS, pertinent positives per HPI, the pt denies 
headache, loss of vision, blurred vision, diplopia, dysarthria, 
dysphagia, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech. Denies focal 
weakness. No bowel or bladder incontinence or retention. 

On general review of systems, patient endorses recent upper 
respiratory infection at the end of ___ weeks of 
bilateral lower extremity swelling in his ankles the pt denies 
recent fever or chills. No night sweats or recent weight loss or 
gain. Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 
Denies rash. 
 
Past Medical History:
Hypertension 
Hyperlipidemia
idiopathic peripheral neuropathy 
Vasovagal syncope status post pacemaker
Recurrent pneumonias as a child requiring lobectomy
 
Social History:
___
Family History:
No family h/o neurologic issues 
 
Physical Exam:
ON ADMISSION:
Vitals:98.1, 53, 150/78, 20, 100% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

-Cranial Nerves: 
III, VI, IV: PERRLA 2->3, extraocular movements intact with fine
left beating nystagmus on left gaze.VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     ___  5    5  5    5   5     5     5   
R  5     ___  5    5  5    5   5     5     5   

-Sensory: Decreased sensation to light touch in the feet 
bilaterally about 50% compared to his upper leg, decreased 
pinprick in his feet bilaterally, in addition has decreased 
pinprick in his left inner leg up to his distal thigh, decreased 
pinprick in his right lateral leg though only up to around right
above the ankle pinprick reduction is worse in the left on the 
right, is decreased pinprick in the dorsum of his hands 
bilaterally, decreased vibration in toes bilaterally about 3 
seconds, decreased in ankles and knees as well around 5 to 6 
seconds, proprioception is intact bilaterally though only 2 very
large movements, positive Romberg

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
Plantar response was flexor in the right, left toe was equivocal

-Coordination: No intention tremor. No dysmetria on FNF or HKS 
bilaterally.  Finger tapping is slow and uncoordinated his left 
upper extremity, left upper extremity is clumsy with rapid 
alternating movements, no rebound, no truncal ataxia

-Gait: Patient is able to get up from the bed and stand no 
initially is unsteady and started to fall backwards but was able 
to write himself, gait is mildly wide-based and unsteady though 
he is able to stand together and eyes open without much 
difficulty, he is not able to stand with his eyes closed and has 
significant sway

ON DISCHARGE:
Mental status: Awake, alert, attentive to interview and exam. 
Language is fluent with no paraphasias. No evidence of 
hemineglect.
Cranial nerves: Pupils equal, round, reactive to light. Eye 
movements full without nystagmus. Visual fields full to 
confrontation. Facial sensation intact Face symmetric at rest 
and with activation. Hearing intact to finger rub. No 
dysarthria. Tongue/palate midline.
Motor: Normal bulk and tone throughout. Strengths is full in all 
muscle groups of the upper and lower extremities. No 
clumsiness/bradykinesia. 
Sensory: Joint position sense is intact to small amplitude 
movements at the large toes bilaterally. Negative Romberg.
Coordination: No dysmetria with finger nose finger or heel to 
shin bilaterally. No truncal ataxia.
Gait: Narrow-based, steady.
 
Pertinent Results:
ADMISSION LABS:
___ 07:33PM BLOOD WBC-4.5 RBC-3.78* Hgb-12.0* Hct-37.2* 
MCV-98 MCH-31.7 MCHC-32.3 RDW-13.8 RDWSD-50.4* Plt ___
___ 08:34AM BLOOD ___ PTT-30.2 ___
___ 07:33PM BLOOD Glucose-88 UreaN-11 Creat-0.8 Na-146 
K-3.8 Cl-107 HCO3-26 AnGap-13
___ 07:33PM BLOOD ALT-15 AST-18 LD(LDH)-179 AlkPhos-46 
TotBili-0.4
___ 07:33PM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:19PM URINE Color-Straw Appear-Clear Sp ___
___ 08:19PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

PERTINENT LABS:
___ 07:33PM BLOOD VitB12-559 Folate->20
___ 08:34AM BLOOD %HbA1c-5.1 eAG-100
___ 08:34AM BLOOD Triglyc-63 HDL-57 CHOL/HD-2.2 LDLcalc-53
___ 08:34AM BLOOD TSH-5.0*
___ 08:34AM BLOOD T4-5.5
___ 08:34AM BLOOD CRP-1.6

IMAGING:
___
NONCONTRAST HEAD CT: No acute intracranial process. No 
intracranial 
hemorrhage. A chronic lacunar infarct is demonstrated in the 
left internal 
capsule. 
CTA HEAD: Patent intracranial vasculature. No evidence of 
stenosis, occlusion or aneurysm. Dural venous sinuses are 
patent. 
CTA NECK: Patent neck vasculature. No evidence of stenosis, 
dissection or 
occlusion. 
Other: The lungs are clear. Imaged neck soft tissues are 
unremarkable. 

___
CT HEAD: No acute large territory infarction or intracranial 
hemorrhage. 

MICROBIOLOGY:
URINE CULTURE (Final ___:    NO GROWTH.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
[]New medication: Aspirin 81mg daily
[]New medication: Clopidogrel 75mg daily for 3 weeks only
[]Would recommend outpatient echocardiogram as well as ___ weeks 
of cardiac monitoring, eg with Holter monitor, for atrial 
fibrillation

Ms. ___ is a ___ year old man with hypertension and 
hyperlipidemia admitted to the Neurology stroke service with 
several days of difficulty walking, which he described as 
imbalance. On exam initially, there did seem to be imbalance, 
though no other signs of ataxia. There was also some subtle 
weakness of the left hand. Non-contrast head CT and CTA 
head/neck did not reveal any acute stroke or vascular stenosis. 
We discussed obtaining MRI to definitively look for stroke. 
However, given his permanent pacemaker this would require 
coordination with Cardiology. Mr. ___ preferred to defer the 
MRI in order to return home with his family, which we felt was 
reasonable, as his history and exam were suggestive of stroke. 
Telemetry monitoring did not show any evidence of atrial 
fibrillation. Echocardiogram and long term cardiac monitoring 
were deferred to the outpatient setting. Stroke was most likely 
secondary to small vessel/lacune given the relatively minor 
symptoms of subtle ataxia and left sided weakness. His deficits 
improved greatly prior to discharge with no identifiable 
weakness or ataxia.

He will be discharged on Aspirin 81mg. He will also take 
Clopidogrel 75mg daily for 3 weeks only, per the POINT trial. 

His stroke risk factors include the following:
1) A1c 5.1%
2) Mild intracranial atherosclerosis
3) Hyperlipidemia: well controlled on Atorvastatin 10mg with LDL 
53

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 53) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[x] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Loratadine 10 mg PO DAILY 
4. PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Atorvastatin 10 mg PO QPM 
7. Calcium 600 (calcium carbonate) 600 mg calcium (1,500 mg) 
oral DAILY 
8. Nasacort (triamcinolone acetonide) 55 mcg nasal DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Calcium 600 (calcium carbonate) 600 mg calcium (1,500 mg) 
oral DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Loratadine 10 mg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  Nasacort (triamcinolone acetonide) 55 mcg nasal DAILY  
9.  PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of trouble walking and 
left sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

High blood pressure
High cholesterol

We are changing your medications as follows:
-START Aspirin 81mg daily
-START Clopidogrel (Plavix) 75mg daily for 3 weeks, then STOP.

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician. 
We would recommend you also see your cardiologist to discuss 
further testing for your heart.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___